US05990101
b) 2-(formylamino)methylimidazo[5,1-b]thiazole
A mixed solution of 0.14 ml of acetic acid and 0.28 ml of formic acid which had been beforehand reacted with each other at 50° C. for 15 minutes was added to 3 ml of dry dichloromethane containing 154.6 mg of 2-aminomethylimidazo[5,1-b]thiazole at room temperature, and the mixture was then stirred at room temperature for 1 hour. Then, 2 ml of water was added to the reaction solution, and the solution was alkalified with anhydrous potassium carbonate under stirring. The solution was extracted with dichloromethane (15 ml×3). The combined organic layer was dried over anhydrous magnesium sulfate and then filtered, and the solvent was then evaporated under reduced pressure. The resulting crude product was purified by a silica gel column chromatograph to obtain 118.4 mg of the title compound as a colorless solid.

reactant | acetic acid | 0.14 ml | C(C)(=O)O | C2H4O2
reactant | formic acid | 0.28 ml | C(=O)O | CH2O2
reactant | 2-aminomethylimidazo[5,1-b]thiazole | NCC1=CN2C(S1)=CN=C2 | C6H7N3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 2 ml | O | H2O
solvent | dichloromethane | 3 ml, 154.6 mg | ClCCl | CH2Cl2
product | 2-(formylamino)methylimidazo[5,1-b]thiazole | 118.4 mg | C(=O)NCC1=CN2C(S1)=CN=C2 | C7H7N3OS
